US06855710B2
d) 4-(3-dimethylaminoprop-1-ynyl)-aniline
The reaction of 4-(3-dimethylaminoprop-1-ynyl)-nitrobenzene with tin dichloride analogously to Example 269 yields the following three products:

reactant | 4-(3-dimethylaminoprop-1-ynyl)-nitrobenzene | CN(CC#CC1=CC=C(C=C1)[N+](=O)[O-])C | C11H12N2O2
reactant | tin dichloride | [Sn](Cl)Cl
product | 4-(3-dimethylaminoprop-1-ynyl)-aniline | CN(CC#CC1=CC=C(N)C=C1)C | C11H14N2
